US09226922B2
To a solution of (S)-methyl 2-((4-methoxybenzyl)amino)-2-phenylacetate (1.6 g, 5.61 mmol) in anhydrous dichloroethane (20 mL) was added 4-methoxy benzaldehyde (0.76 g, 5.61 mmol) and few drops of HOAc. After 30 min, the reaction mixture was cooled to 0° C., sodium triacetoxy borohydride (2.38 g, 11.22 mmol) was added and the contents were allowed to stir at ambient temperature. After 2 h, the reaction was quenched with ice cold H2O (10 mL), and the organic contents were extracted with CH2Cl2 (2×25 mL). The combined organic extracts were washed with brine (1×20 mL), dried over Na2SO4, concentrated and the residue thus obtained was purified by flash column chromatography to afford (S)-methyl 2-(bis(4-methoxybenzyl)amino)-2-phenylacetate as pale yellow liquid (1.5 g, 66%). MS: [M+H]+ m/z 406.

reactant | (S)-methyl 2-((4-methoxybenzyl)amino)-2-phenylacetate | 5.61 mmol, 1.6 g | COC1=CC=C(CN[C@H](C(=O)OC)C2=CC=CC=C2)C=C1 | C17H19NO3
reactant | 4-methoxy benzaldehyde | 5.61 mmol, 0.76 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | HOAc | CC(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 11.22 mmol, 2.38 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | (S)-methyl 2-(bis(4-methoxybenzyl)amino)-2-phenylacetate | 1.5 g, 66% | COC1=CC=C(CN([C@H](C(=O)OC)C2=CC=CC=C2)CC2=CC=C(C=C2)OC)C=C1 | C25H27NO4
